US08445530B2
Isocyano-acetic acid methyl ester (112 mg, 1.13 mmol) and 2,3-bis-chloromethyl-pyridine (200 mg, 1.14 mmol) were dissolved in DMF. Potassium tert-butoxide (0.255 g, 2.27 mmol) was added and the reaction mixture was stirred for 1 h at room temperature. The mixture was partitioned between EA and a saturated aqueous sodium hydrogencarbonate solution, the aqueous phase extracted with EA, and the organic extracts were dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by silica gel chromatography (HEP/EA gradient) to give 6-isocyano-6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid methyl ester. This compound was added to a solution of thionyl chloride (147 mg, 1.23 mmol) in ethanol (1 ml) and refluxed overnight. The mixture was evaporated to dryness, and the residue was stirred with HEP, filtered and dried in vacuo. The obtained product was reacted with 4-methoxy-3-(2-m-tolyl-ethoxy)-benzoic acid in analogy to step 1 of example 15 and the title compound purified by preparative RP HPLC (water/ACN gradient).

reactant | Isocyano-acetic acid methyl ester | 1.13 mmol, 112 mg | COC(C[N+]#[C-])=O | C4H5NO2
reactant | 2,3-bis-chloromethyl-pyridine | 1.14 mmol, 200 mg | ClCC1=NC=CC=C1CCl | C7H7Cl2N
reactant | Potassium tert-butoxide | 2.27 mmol, 0.255 g | CC(C)([O-])C.[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-isocyano-6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid methyl ester | COC(=O)C1(CC=2C=CC=NC2C1)[N+]#[C-] | C11H10N2O2
